US08030311B2
N-(5-tert-Butyl-2-(2-chloro-phenyl)-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetamide
The title compound is prepared as described in Example 28 but using 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid and 5-tert-butyl-2-(2-chloro-phenyl)-2H-pyrazol-3-ylamine. Title compound: ES-MS: 485.03 [M+H]+; tR=3.08 min (System 3).

reactant | 2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)CC(=O)O | C14H11N3O2
reactant | 5-tert-butyl-2-(2-chloro-phenyl)-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C1=C(C=CC=C1)Cl)N | C13H16ClN3
product | N-(5-tert-Butyl-2-(2-chloro-phenyl)-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridine-3-yl-phenyl)-acetamide | C(C)(C)(C)C=1C=C(N(N1)C1=C(C=CC=C1)Cl)NC(CC1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C27H25ClN6O
